US04898863
A solution of indole-6-carboxylic acid (9.41 g) and 1,1'carbonyldiimidazole (10.6 g) in methylene chloride (290 ml) was heated at reflux, under nitrogen, for 30 minutes. The solution was cooled and treated with cyclopentylmethylamine (7.0 g). This mixture was heated to reflux for 30 minutes. The resultant solution was then diluted with methylene chloride, washed successively with 10% (v/v) hydrochloric acid, 20% (w/v) aqueous sodium hydroxide, and brine, dried (MgSO4), and evaporated to give 6-(N-cyclopentylmethylcarbamoyl)indole (14.4 g, 91%) as an ivory powder, mp 148°-150°; NMR (80 MHz, DMSO-d6): 3.19(dd, 2H, CH2NH), 6.46(br d, 1H, H3 -indole), 7.91(d, 1H, H7 -indole), 8.29(t, 1H, CH2NH).

reactant | indole-6-carboxylic acid | 9.41 g | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
reactant | 1,1'carbonyldiimidazole | 10.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | cyclopentylmethylamine | 7.0 g | C1(CCCC1)CN | C6H13N
solvent | methylene chloride | 290 ml | C(Cl)Cl | CH2Cl2
product | 6-(N-cyclopentylmethylcarbamoyl)indole | 14.4 g, 91% | C1(CCCC1)CNC(=O)C1=CC=C2C=CNC2=C1 | C15H18N2O
